US08003685B2
n-BuLi (2 eq.) is added dropwise for 10 min to a cold (−40° C.) solution of diisopropylamine (1 eq.) in dry THF. The reaction mixture is stirred at the same temperature for 30 min. Then a solution of 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (1 eq.) in THF is added dropwise (35 min) keeping the internal temperature around −40° C. The reaction mixture is stirred for 30 min and a solution of iodine (2 eq.) in THF is added dropwise, stirred for 30 min at the same temperature before being added a sat. solution of NH4Cl. The reaction mixture is diluted with ethyl acetate and water. The organic layer is separated and washed with 5% sodium thiosulfate solution. The organic layer is separated, dried (Na2SO4) and evaporated to a suspension and then added heptane. The suspension is stirred at 0° C. for 30 min, filtered and washed with heptane to obtain 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclo-hexanecarbonyl)-amino]-5-iodo-thiophene-2-carboxylic acid methyl ester.

reactant | n-BuLi | 2 eq. | [Li]CCCC
reactant | diisopropylamine | 1 eq. | C(C)(C)NC(C)C | C6H15N
reactant | 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclohexane-carbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 1 eq. | COC(=O)C=1SC=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC2(OCCO2)CC1 | C22H31NO5S
reactant | iodine | 2 eq. | II | I2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[(1,4-dioxa-spiro[4.5]dec-8-yl)-(trans-4-methyl-cyclo-hexanecarbonyl)-amino]-5-iodo-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC2(OCCO2)CC1)I | C22H30INO5S
